US05212171
A solution of 2-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-benzodioxole (5.6g) in dichloroethane (15 ml) was added over 10 minutes to vigorously stirred nitric acid (50% w/v, 25 ml) keeping the temperature at 15°-20° C. by means of a cooling bath. The resulting reaction mixture was stirred for a further 1 hour at 20° C., poured into water (200 ml) and extracted with methylene chloride (3×100 ml). After drying over anhydrous sodium sulphate, the extract was evaporated under reduced pressure. The residue was purified by chromatography on silica gel using methylene chloride as eluant, affording the pure product benzodioxole as a pale yellow oil (5.3 g, 82%).

reactant | 2-methyl-2-[4-(trifluoromethyl)phenyl]-1,3-benzodioxole | 5.6g | CC1(OC2=C(O1)C=CC=C2)C2=CC=C(C=C2)C(F)(F)F | C15H11F3O2
reactant | nitric acid | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 200 ml | O | H2O
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | benzodioxole | 5.3 g, 82% | O1OCC2=C1C=CC=C2 | C7H6O2
